US07919504B2
Hydrazine monohydrate (0.93 mL, 18.6 mmol) was added to a solution of (R)-tert-butyl 2-oxo-5-((6-(trifluoromethyl)pyridin-3-yl)methyl)pyrrolidine-1-carboxylate (1.6 g, 4.65 mmol) in THF (23 mL), and the mixture was stirred at room temperature for 1 hour. Saturated aqueous NH4Cl (20 mL) was added and the mixture was extracted with EtOAc (3×20 mL). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The resulting off-white solid was purified by recrystallization from EtOAc to provide (R)-4-(tert-butoxycarbonylamino)-5-(6-(trifluoromethyl)pyridin-3-yl)pentanehydrazide (1.40 g, 80%) as a white solid. LCMS (API-ES) m/z: 399.1 (M+Na+).

reactant | Hydrazine monohydrate | 18.6 mmol, 0.93 mL | O.NN
reactant | (R)-tert-butyl 2-oxo-5-((6-(trifluoromethyl)pyridin-3-yl)methyl)pyrrolidine-1-carboxylate | 4.65 mmol, 1.6 g | O=C1N([C@H](CC1)CC=1C=NC(=CC1)C(F)(F)F)C(=O)OC(C)(C)C | C16H19F3N2O3
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF | 23 mL | C1CCOC1 | C4H8O
product | (R)-4-(tert-butoxycarbonylamino)-5-(6-(trifluoromethyl)pyridin-3-yl)pentanehydrazide | 1.40 g, 80% | C(C)(C)(C)OC(=O)N[C@H](CCC(=O)NN)CC=1C=NC(=CC1)C(F)(F)F | C16H23F3N4O3
